US04992574
19.0 ml of thionyl chloride are added to 30 g of p-bromohydrocinnamic acid and heated to reflux for 30 minutes. After cooling, the excess reagent is removed by evaporation (finally at 0.5 Torr) and the crude acid chloride is dissolved in 300 ml of carbon disulfide. After cooling to -10°, 3.5 ml of tin tetrachloride are added under an argon atmosphere. Thereafter, 25 ml of isobutylene are introduced and the reaction mixture is warmed slowly to room temperature. After renewed cooling to 0°, 35 g of aluminum trichloride are added. The reaction mixture is stirred overnight, poured on to ice, extracted with diethyl ether and the extract is washed with water and phosphate buffer (pH 7) and dried. After evaporation, the residue is chromatographed on silica gel with petroleum ether (low-boiling) and ethyl acetate (9:1). There is obtained 2-bromo-5,6,8,9-tetrahydro-9,9-dimethyl-7-benzocycloheptenone in the form of yellowish crystals of m.p. 67°-68° (from hexane).

reactant | thionyl chloride | 19.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | p-bromohydrocinnamic acid | 30 g | BrC1=CC=C(CCC(=O)O)C=C1 | C9H9BrO2
product | 2-bromo-5,6,8,9-tetrahydro-9,9-dimethyl-7-benzocycloheptenone | BrC=1C=CC2=C(C(CC(CC2)=O)(C)C)C1 | C13H15BrO
